US07118787B2
2-Bromo-9,9-dioctyl-7-hydroxyfluorene:
2.5M n-butyllithium in hexanes (20.0 cm3, 0.05 mol) was added dropwise to a solution of 2,7-dibromo-9,9-dioctylfluorene (20.0 g, 0.0364 mol) and tetrahydrofuran (300 cm3) maintaining a temperature of −70° C. After stirring for 1 h, trimethylborate (9.45 g, 0.09 mol) was added dropwise. After allowing the solution to reach RT, 20% hydrochloric acid (100 cm3) was added and the solution stirred for a further 1.5 h. The product was extracted into diethyl ether (2×100 cm3) and the combined extracts washed with water (2×100 cm3), dried (MgSO4) and concentrated to a pale yellow oil. Diethyl ether (200 cm3) and hydrogen peroxide (30%, 100 cm3) were added and the solution heated under gentle reflux for 2.5 h with vigorous stirring. The ether layer was separated off and the aqueous layer extracted into diethyl ether (3×50 cm3). The combined organic layers were washed with saturated sodium metabisulphite solution (2×100 cm3), dried (MgSO4), filtered and evaporated down under slightly reduced pressure to a pale yellow oil, which was purified by column chromatography [silica gel, dichloromethane:hexane:ethanol 50:50:1] and recrystallisation from hexane to yield a white crystalline solid (yield 7.80 g, 45%), GC: 99%, mpt 110° C.

reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | 2,7-dibromo-9,9-dioctylfluorene | 0.0364 mol, 20.0 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCC)CCCCCCCC | C29H40Br2
reactant | trimethylborate | 0.09 mol, 9.45 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 100 cm3 | Cl | ClH
solvent | tetrahydrofuran | 300 cm3 | O1CCCC1 | C4H8O
product | 2-Bromo-9,9-dioctyl-7-hydroxyfluorene | yield 7.80 g, 45% | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)(CCCCCCCC)CCCCCCCC | C29H41BrO
